US07524871B2
Step 6: Synthesis of (±)-2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5-yl)acetamide
To a solution of 2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid (94.1 mg, 0.28 mmol) and 4,5,6,7-tetrahydro-2H-indazol-5-ylamine dihydrochloride (58.8 mg, 0.28 mmol) in 1 mL of DMF was added HOBt (42.8 mg, 0.28 mmol). The pH of the solution was adjusted to 8 with N-methylmorpholine and EDC (53.7 mg, 0.28 mmol) was added. The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and ethylacetate and saturated NaHCO3 solution were added to the residue. The water phase was extracted with ethyl acetate three times, and the combined organic phases were washed with saturated NaCl solution, dried over MgSO4, filtered and the solvent evaporated under reduced pressure. The product was purified by column chromatography (silicagel, eluant CH2Cl2/MeOH=9/1) to give 48 mg (38%) of a white solid compound.

reactant | 2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid | 0.28 mmol, 94.1 mg | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
reactant | 4,5,6,7-tetrahydro-2H-indazol-5-ylamine dihydrochloride | 0.28 mmol, 58.8 mg | Cl.Cl.N=1NC=C2CC(CCC12)N
reactant | HOBt | 0.28 mmol, 42.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.28 mmol, 53.7 mg
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (±)-2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5-yl)acetamide | 48 mg, 38% | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)NC1CC2=CNN=C2CC1)=O | C22H25N5O4S
